US08404679B2
c) N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(4-methoxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(4-methoxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide using 4-methoxycylcohexanecarboxylic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a colorless oil. MS m/e: 521.3 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C(CC1=CC=C(C=C1)F)=O)C | C19H19Cl2FN2O
reactant | 4-methoxycylcohexanecarboxylic acid | COC1CCC(CC1)C(=O)O | C8H14O3
product | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(4-methoxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCC(CC1)OC)N(C(CC1=CC=C(C=C1)F)=O)C | C27H31Cl2FN2O3
